US07714126B2
2-(3-Ethoxy-azetidin-1-yl)-5-nitro-pyridine (59 mg, 0.264 mmol) was hydrogenated as above and reacted with 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid (74 mg, 0.29 mmol), Et3N (186 uL, 1.32 mmol) and BOP (122 mg. 0.277 mmol). Following work-up as above, the crude material was purified by flash chromatography to yield 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid [6-(3-ethoxy-azetidin-1-yl)-pyridin-3-yl]-amide as a solid (79 mg). ES-MS calcd for C21H19F3N4O3 (m/e) 432.41, obsd 433.1 (M+H).

reactant | 2-(3-Ethoxy-azetidin-1-yl)-5-nitro-pyridine | 0.264 mmol, 59 mg | C(C)OC1CN(C1)C1=NC=C(C=C1)[N+](=O)[O-] | C10H13N3O3
reactant | 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid | 0.29 mmol, 74 mg | C1(=CC=CC=C1)C=1OC(=C(N1)C(=O)O)C(F)(F)F | C11H6F3NO3
reactant | Et3N | 1.32 mmol, 186 uL | CCN(CC)CC | C6H15N
reactant | BOP | 0.277 mmol, 122 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
product | 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid [6-(3-ethoxy-azetidin-1-yl)-pyridin-3-yl]-amide | 79 mg | C(C)OC1CN(C1)C1=CC=C(C=N1)NC(=O)C=1N=C(OC1C(F)(F)F)C1=CC=CC=C1 | C21H19F3N4O3
